US07910585B2
To a suspension of 4-fluoro-2-methyl-7-nitro-2,3-dihydro-isoindol-1-one (5.0 g, 24 mmol) and potassium carbonate (3.32 g, 24 mmol), triethylamine (6.7 mL, 28.8 mmol) in dimethylsulfoxide (50 mL), 1-isopropyl piperazine (4.1 mL, 28.8 mmol) is added and the mixture is stirred at 60° C. for 4 hours. The mixture is poured into iced water, and the resulting brown solids are collected by filtration and dried in vacuo at 50° C. to afford 4-(4-Isopropyl-piperazin-1-yl)-2-methyl-7-nitro-2,3-dihydro-isoindol-1-one as brown solids in 91% yield. Rf=0.14 (AcOEt). 1H-NMR (400 MHz, CDCl3, δ, ppm): 1.09 (s, 3H), 1.11 (s, 3H), 2.70 (t, 4H), 2.80-2.74 (m, 1H), 3.19 (s, 3H), 3.21 (t, 4H), 4.37 (s, 2H), 7.01 (d, 1H), 7.78 (d, 1H).

reactant | 4-fluoro-2-methyl-7-nitro-2,3-dihydro-isoindol-1-one | 24 mmol, 5.0 g | FC1=C2CN(C(C2=C(C=C1)[N+](=O)[O-])=O)C | C9H7FN2O3
reactant | potassium carbonate | 24 mmol, 3.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 28.8 mmol, 6.7 mL | C(C)N(CC)CC | C6H15N
reactant | 1-isopropyl piperazine | 28.8 mmol, 4.1 mL | C(C)(C)N1CCNCC1 | C7H16N2
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(4-Isopropyl-piperazin-1-yl)-2-methyl-7-nitro-2,3-dihydro-isoindol-1-one | 91% yield | C(C)(C)N1CCN(CC1)C1=C2CN(C(C2=C(C=C1)[N+](=O)[O-])=O)C | C16H22N4O3
